US03989694
7-Amino-3-(4-carbethoxy-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid.
4-Carbethoxy-1,2,3-triazole-5-thiol disodium salt hydrate (3.0 g., 13.8 mmol.) was added to a solution of 2.79 g. (10.2 mmol.) of 7-aminocephalosporanic acid and 1.72 g. (20.5 mmol.) of sodium bicarbonate in 40 ml. of water and 10 ml. of acetone. The reaction mixture was acidified to pH 7.2 with glacial acetic acid then refluxed for 2.5 hours. The cooled mixture was acidified to pH 3.9 with 3N hydrochloric acid and the precipitated solid was collected, washed with water and acetone and dried (P2O5 in vacuo) to give the title compound.

reactant | 4-Carbethoxy-1,2,3-triazole-5-thiol disodium salt hydrate | 13.8 mmol, 3.0 g | O.[Na].[Na].C(=O)(OCC)C=1N=NNC1S
reactant | 7-aminocephalosporanic acid | 10.2 mmol | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | sodium bicarbonate | 20.5 mmol | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 7-Amino-3-(4-carbethoxy-1,2,3-triazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=C(N=NN2)C(=O)OCC)C(=O)O)C1=O | C13H15N5O5S2
